US07157488B2
4-Phenyltryptamine hydrochloride
Add a solution of HCl (4.6 mL of 4 M HCl in 1,4-dioxane) dropwise to a solution of 4-phenyltryptamine (3.33 g, 14.09 mmol) in EtOAc/Et2O to give a solid. Collect the solid by filtration and dry overnight in a vacuum oven at room temperature to give the title compound as an off white solid: 1H NMR (300 MHz, d6-DMSO): 2.54 (m, 4H), 6.82 (m, 1H), 7.14 (t, 1H), 7.27 (m, 1H), 7.41 (m, 5H), 7.68 (bs, 2H), 11.28 (bs, 1H); MS(ES+): m/z 237 (M+H)+, 220 (M-NH2)+; (ES−): m/z 235 (M−H)−; Analysis for C16H17ClN2; Calcd.; C, 70.4517; H, 6.2818; N, 10.2696; found; C, 70.26; H, 6.16; N, 10.20.

reactant | HCl | 4 M, 4.6 mL | Cl | ClH
reactant | 4-phenyltryptamine | 14.09 mmol, 3.33 g | C1(=CC=CC=C1)C=1C=CC=C2NC=C(CCN)C12 | C16H16N2
solvent | EtOAc Et2O | CCOC(=O)C.CCOCC
product | 4-Phenyltryptamine hydrochloride | Cl.C1(=CC=CC=C1)C=1C=CC=C2NC=C(CCN)C12 | InChI=1S/C16H16N2.ClH/c17-10-9-13-11-18-15-8-4-7-14(16(13)15)12-5-2-1-3-6-12;/h1-8,11,18H,9-10,17H2;1H
